US07619086B2
Step 3: 1-(3-Chloro-4-fluorobenzyl)-4-hydroxymethyl-5,6-dihydropyridin-2(1H)-one
A solution of methyl 1-(3-chloro-4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one-4-carboxylate (4.0 g, 13 mmol) from the previous step in THF (75 mL) was cooled to −78° C. with stirring. A solution of lithium borohydride in THF (15 mL of a 2.0 M solution, 30 mmol) was added and the mixture was stirred at −78° C. for 30 min and then at ambient temperature for 24 hours. The reaction was quenched by the careful addition of 1 N aqueous HCl. Enough HCl was added so that the solution measured pH 1. The solvent was removed under reduced pressure and the residue was partitioned between CH2Cl2 (100 mL) and water (50 mL). The organic layer was separated and the aqueous phase was extracted with more CH2Cl2 (2×100 mL). The organic phases were combined and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography eluting with 95:5 CH2Cl2:MeOH. Fractions containing product were concentrated under reduced pressure to give the title compound as a gum. HPLC RT=2.67 min (Method A); ES MS M+1=272.

reactant | methyl 1-(3-chloro-4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one-4-carboxylate | 13 mmol, 4.0 g | ClC=1C=C(CN2C(C=C(CC2)C(=O)OC)=O)C=CC1F | C14H13ClFNO3
reactant | lithium borohydride | [BH4-].[Li+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloro-4-fluorobenzyl)-4-hydroxymethyl-5,6-dihydropyridin-2(1H)-one | ClC=1C=C(CN2C(C=C(CC2)CO)=O)C=CC1F | C13H13ClFNO2
